US07723329B2
A solution of toluene-4-sulfonic acid 2-(3-benzenesulfonyl-1H-indazol-5-yloxy)-ethyl ester (0.348 g, 0.736 mmol) and n-butylamine (1.0 mL, 10 mmol) in THF (8 mL) was stirred at 70° C. for 6 hours in a sealed tube. After cooling somewhat, the reaction mixture was solvent evaporated and partitioned in ethyl acetate and aqueous sodium bicarbonate. The organic phase was then washed with water and brine, dried with anhydrous magnesium sulfate, filtered and concentrated. The residue was purified by flash chromatography using 7.5-10% methanol in chloroform. After drying in vacuo at 55° C. for 40 minutes, [2-(3-benzenesulfonyl-1H-indazol-5-yloxy)-ethyl]-butyl-amine as a light beige semi-solid (0.105 g, 38.2%) was obtained. This was dissolved in chloroform, and ethereal hydrochloride was added. The resulting solid was filtered and dried in vacuo at 75° C. for 16.5 hours to yield the hydrochloride as a white solid (0.0813 g): MP: 271-3° C. dec; Mass Spectrum (+EI, [M+H]+) m/z 374. 1HNMR (300 MHz, DMSO-d6): δ14.27-14.35 (br, 1H), 8.98-9.00 (br, 2H), 8.03-8.06 (m, 2H), 7.62-7.76 (m, 4H), 7.46 (d, 1H, J=2.19 Hz) 7.25 (dd, 1H, J=9.15 Hz and 2.29 Hz), 4.38-4.41 (m, 2H), 3.41-3.44 (m, 2H), 3.03 (t, 2H, J=7.87 Hz), 1.62-1.72 (m, 2H), 1.33-1.45 (m, 2H), 0.94 ppm (t, 3H, J=7.32 Hz). Elemental Analysis for C19H23N3O3S.1.00 mol HCl.0.05 mol H2O: Calcd: C, 55.55; H, 5.91; N, 10.23; Found: C, 55.23; H, 5.87; N, 10.09.

reactant | toluene-4-sulfonic acid 2-(3-benzenesulfonyl-1H-indazol-5-yloxy)-ethyl ester | 0.736 mmol, 0.348 g | C1(=CC=CC=C1)S(=O)(=O)C1=NNC2=CC=C(C=C12)OCCOS(=O)(=O)C1=CC=C(C=C1)C | C22H20N2O6S2
reactant | n-butylamine | 10 mmol, 1.0 mL | C(CCC)N | C4H11N
solvent | THF | 8 mL | C1CCOC1 | C4H8O
product | [2-(3-benzenesulfonyl-1H-indazol-5-yloxy)-ethyl]-butyl-amine | 0.105 g, 38.2% | C1(=CC=CC=C1)S(=O)(=O)C1=NNC2=CC=C(C=C12)OCCNCCCC | C19H23N3O3S
